US05646173
A solution of 14.2 g of 6-methyl-1-indanone, 20.1 ml of 3-buten-2-ol and 140 mg of p-toluenesulfonic acid in 140 ml of 2,2-dimethoxypropane was boiled under reflux for 69 hours on a water separator filled with molecular sieve (0.4 nm, 2 mm pearl shaped). The reaction mixture was subsequently concentrated in a vacuum and purified by column chromatography on silica gel (hexane/diethyl ether 5:1). 16.3 g (83%) of (RS)-2-(2-buten-1-yl)-6-methyl-1-indanone were obtained as a yellow oil.

reactant | 6-methyl-1-indanone | 14.2 g | CC1=CC=C2CCC(C2=C1)=O | C10H10O
reactant | 3-buten-2-ol | 20.1 ml | CC(C=C)O | C4H8O
reactant | p-toluenesulfonic acid | 140 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | 2,2-dimethoxypropane | 140 ml | COC(C)(C)OC | C5H12O2
product | (RS)-2-(2-buten-1-yl)-6-methyl-1-indanone | 16.3 g, 83% | C(C=CC)C1C(C2=CC(=CC=C2C1)C)=O | C14H16O
